US04419435
8-Acetamido-5-(m-acetoxybenzylsulfonyl)quinoline-N-oxide
8-Acetamido-5-(m-acetoxybenzylsulfonyl)quinoline (3.98 g, 10 mmole) was dissolved in 30 ml of dichlomethane and treated with m-chloroperbenzoic acid (2.03 g). The solution was stirred for 3 days at room temperature. Some m-chlorobenzoic acid which separated was filtered off and the filtrate concentrated to a syrup. On boiling with 40 ml 2-propanol a pale yellow solid was induced to crystallize. After chilling in an ice bath, the solid was filtered off, washed with 2-propanol and ether, and dried to yield 3.8 g (92 percent). The structure was confirmed by NMR.

reactant | 8-Acetamido-5-(m-acetoxybenzylsulfonyl)quinoline | 10 mmole, 3.98 g | C(C)(=O)NC=1C=CC(=C2C=CC=NC12)S(=O)(=O)CC1=CC(=CC=C1)OC(C)=O | C20H18N2O5S
reactant | m-chloroperbenzoic acid | 2.03 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 8-Acetamido-5-(m-acetoxybenzylsulfonyl)quinoline-N-oxide | C(C)(=O)NC=1C=CC(=C2C=CC=[N+](C12)[O-])S(=O)(=O)CC1=CC(=CC=C1)OC(C)=O | C20H18N2O6S
